US04431653
A mixture of 1-[3(4-piperidinyl)propyl]-1H-imidazole-2-amine (0.5 g, 0.0024 M) and dimethylformamide dimethylacetal (7 ml) was heated at 100° C. for 10 hrs. The reaction was then stripped to dryness to give 4-[3-(2[[[dimethylamino)methylene]amino]-1H-imidazol-1-yl]propyl]-1-piperidinecarboxaldehyde dimethylacetal. The solution of the piperidinecarboxaldehyde dimethylacetal in chloroform (4 ml) was added to the mixture of 6-aminopenicillanic acid (0.46 g, 0.0216 M) and diisopropylethylamine (0.37 ml) in chloroform (10 ml) at 0° C. and then stirred at room temperature for 31/2 hrs. After this period, the solvent was removed and water (20 ml) was added. The aqueous solution, after being washed with ethylacetate, was acidified from about pH 3 to about 3.5 an purified on Sephadex L-20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[4 -[3-[2-[[(dimethylamino)methylene]amino]-1H-imidazol-1-yl]propyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid 1.7 molar hydrochloride 2.6 molar hydrate (0.64 g, 64% yield).

reactant | 1-[3(4-piperidinyl)propyl]-1H-imidazole-2-amine | 0.0024 M, 0.5 g | N1CCC(CC1)CCCN1C(=NC=C1)N | C11H20N4
reactant | dimethylformamide dimethylacetal | 7 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[3-(2[[[dimethylamino)methylene]amino]-1H-imidazol-1-yl]propyl]-1-piperidinecarboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCCN1C(=NC=C1)N=CN(C)C)OC | C17H31N5O2
